US07074794B2
Using 5-chloro-1-phenyl-1H-tetrazol (2.10 g) and piperazine (10.0 g), and reaction at 100° C. in the same manner as in Example 196 (1), 1-(1-phenyl-1H-tetrazol-5-yl)piperazine (2.67 g) was obtained as a pale-yellow powder.

reactant | 5-chloro-1-phenyl-1H-tetrazol | 2.10 g | ClC1=NN=NN1C1=CC=CC=C1 | C7H5ClN4
reactant | piperazine | 10.0 g | N1CCNCC1 | C4H10N2
product | 1-(1-phenyl-1H-tetrazol-5-yl)piperazine | 2.67 g | C1(=CC=CC=C1)N1N=NN=C1N1CCNCC1 | C11H14N6
